US04446133
In 70 ml of chloroform was dissolved 12.0 g (0.074 mole) of 1-phenylpiperazine at room temperature, and a solution of 10.9 g (0.08 mole) of diethylcarbamoyl chloride in 30 ml of chloroform was dropped to the above solution over a period of 30 minutes. Then, the mixture was stirred at 40° C. for 5 hours and then cooled. The precipitated white crystal was removed, and the filtrate was concentrated under reduced pressure and 50 ml of a 25% aqueous solution of sodium hydroxide was added. The mixture was extracted 2 times with 50 ml of benzene and dried with anhydrous sodium sulfate. The solvent was removed by distillation to obtain crude 1-phenyl-4-diethylcarbamoylpiperazine as the residue. By distillation under reduced pressure, 5.7 g of a purified product having a boiling point of 180.5° C. at 2.3 mm Hg was obtained. The yield was 29.5%. The elementary analysis values are as follows.

reactant | 1-phenylpiperazine | 0.074 mole, 12.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | diethylcarbamoyl chloride | 0.08 mole, 10.9 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-phenyl-4-diethylcarbamoylpiperazine | yield was 29.5% | C1(=CC=CC=C1)N1CCN(CC1)C(N(CC)CC)=O | C15H23N3O
